US06235771B1
To a solution of 6-hydroxybenzofuran (1.38 g) in DMF (40 ml) were added potassium carbonate (3.70 g) and sodium iodide (4.01 g) and then was added 2-chloroethylpropylether (2.52 g), and the mixture was stirred, under nitrogen atmosphere, at 95° C. for 3 days and cooled. To the mixture was added water, and the mixture was extracted with ethyl acetate (twice). The organic layer was washed with 1N sodium hydroxide solution (4 times), water (three times) and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give yellow oil of 6-propoxyethoxybenzofuran (1.50 g).

reactant | 6-hydroxybenzofuran | 1.38 g | OC1=CC2=C(C=CO2)C=C1 | C8H6O2
reactant | potassium carbonate | 3.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4.01 g | [I-].[Na+]
reactant | 2-chloroethylpropylether | 2.52 g | ClCCOCCC | C5H11ClO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-propoxyethoxybenzofuran | 1.50 g | C(CC)OCCOC1=CC2=C(C=CO2)C=C1 | C13H16O3
